US05602253
(vi) (3RS)-3-(N-tert-butyloxycarbonylaminoethyl) pyrrolidine
3.1 g (0.01 mol) (3RS)-1-benzyl-3-(N-tert-butyloxycarbonylaminoethyl) pyrrolidine was hydrogenated at 0.28 MPa over 0.6 g of Pearlman's catalyst (Pd(OH)2) in 40 ml ethanol (95%) over night. After filtration of the catalyst through cellite and evaporation of the solvent 1H-NMR showed that the reaction was not completed. Therefore 0.6 g of Pearlman's catalyst was added in 40 ml ethanol (95%) once more and the mixture was treated under H2 -atmosphere at 0.28 MPa over night. Filtration through cellite and evaporation of the solvent gave the product in a quantitative yield (2.18 g).

reactant | (3RS)-1-benzyl-3-(N-tert-butyloxycarbonylaminoethyl) pyrrolidine | 0.01 mol, 3.1 g | C(C1=CC=CC=C1)N1CC(CC1)CCNC(=O)OC(C)(C)C | C18H28N2O2
catalyst | Pearlman's catalyst | 0.6 g | [OH-].[OH-].[Pd+2]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | (3RS)-3-(N-tert-butyloxycarbonylaminoethyl) pyrrolidine | quantitative yield | C(C)(C)(C)OC(=O)NCCC1CNCC1 | C11H22N2O2
